US05972976
Synthesis of (E)-3-(2-phenylethenyl)-2-aminopyridine
In 35 ml of tetrahydrofuran (THF) was dissolved 1.28 g of 2-aminonicotinaldehyde, followed by addition of 2.50 g of diethyl benzylphosphonate and 2.08 g of potassium hydroxide, and the mixture was refluxed at 80° C. for 4.5 hours. This reaction mixture was filtered to remove insoluble matter and the filtrate was evaporated under reduced pressure. The residue was dissolved in 2N-hydrochloric acid and the solution was washed with ether, made basic bv adding 15% aqueous sodium hydroxide solution, and extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated off. The residue was recrystallized from acetonitrile to provide 0.83 g of the title compound as yellow prisms. This product was used as a starting material without further purification.

reactant | 2-aminonicotinaldehyde | 1.28 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | diethyl benzylphosphonate | 2.50 g | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
reactant | potassium hydroxide | 2.08 g | [OH-].[K+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | (E)-3-(2-phenylethenyl)-2-aminopyridine | 0.83 g | C1(=CC=CC=C1)/C=C/C=1C(=NC=CC1)N | C13H12N2
